US06846827B1
2-Allylamino-4-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)anilino]pyrimidine
A mixture of 2-chloro-4-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)anilino]pyrimidine (0.2 g) and allylamine (0.4 ml) was stirred and heated to reflux for 18 hours. The mixture was evaporated and the residue was purified by column chromatography on silica using a 9:1 mixture of methylene chloride and methanol as eluent. There was thus obtained the title compound as a solid (0.135 g); NMR Spectrum: (DMSOd6) 2.17 (s, 3H), 3.5 (m, 4H), 3.7 (m, 4H), 3.82 (m, 2H), 4.95 (m, 1H), 5.05 (m, 1H), 5.85 (m, 2H), 6.57 (br m, 1H), 7.07 (m, 1H), 7.17 (m, 2H), 7.43 (m, 1H), 7.78 (m, 1H), 7.87 (br m, 1H), 8.24 (m, 1H), 8.37 (s, 1H), 10.18 (s, 1H); Mass Spectrum: M+H+ 446.

reactant | 2-chloro-4-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)anilino]pyrimidine | 0.2 g | ClC1=NC=CC(=N1)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)C | C21H21ClN6O2
reactant | allylamine | 0.4 ml | C(C=C)N | C3H7N
product | 2-Allylamino-4-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)anilino]pyrimidine | 0.135 g | C(C=C)NC1=NC=CC(=N1)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)C | C24H27N7O2
